US09029374B2
NaOH (3.56 mL, 7.11 mmol) was added to a stirred suspension of methyl 8-(1-hydroxyethyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate (988 mg, 2.84 mmol) in MeOH (10 mL)/water (10 mL). The resulting mixture was stirred at RT for 1 hour then acidified to pH 2-3 with a 2N aq. HCl (7.68 mL, 7.68 mmol). The resulting precipitate was collected by filtration, washed with diethyl ether and dried to afford 8-(1-hydroxyethyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid (900 mg, 95%) as a grey solid, which was used without further purification. Mass Spectrum: M+H+ 334.

reactant | NaOH | 7.11 mmol, 3.56 mL | [OH-].[Na+]
reactant | methyl 8-(1-hydroxyethyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate | 2.84 mmol, 988 mg | OC(C)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)OC | C18H21NO6
reactant | water | 10 mL | O | H2O
reactant | HCl | 7.68 mmol, 2N, 7.68 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 8-(1-hydroxyethyl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid | 900 mg, 95% | OC(C)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)O | C17H19NO6
